US06268387B1
3-[3-(4-Fluorophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
A mixture of 3-amino-4-methoxybenzanilide (0.973 g, 4.00 mmol) in ethyl acetate (75 mL) was heated briefly to ˜60° C. The mixture was filtered to clarity and 4-fluorophenyl isothiocyanate (0.49 mL, 4.04 mmol) was added to the filtrate. After 3 days, the mixture was concentrated until a crystalline precipitate was obtained, then allowed to stand several hours at room temperature. Filtration followed by trituration of the collected solid in ether afforded the product (0.4949 g); m.p. 182-183° C.

reactant | 3-amino-4-methoxybenzanilide | 4.00 mmol, 0.973 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 4-fluorophenyl isothiocyanate | 4.04 mmol, 0.49 mL | FC1=CC=C(C=C1)N=C=S | C7H4FNS
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 3-[3-(4-Fluorophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 0.4949 g | FC1=CC=C(C=C1)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S | C21H18FN3O2S
